US05091384
Preparation of 1-cyclopropyl-6,8-difluoro-7-{3,8-diazabicyclo[4.3.0] non-1(6)-en-8-yl}-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
0.3 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 0.6 g of 3-benzyl-3,8-diazabicyclo[4.3.0] non-1(6)-ene hydrobromide were suspended in 30 ml of acetonitrile. 0.6 ml of 1,8-diazabicyclo[5.4.0] undec-7-ene (DBU) was added to the suspension. The reaction mixture was refluxed for 5 hours and then kept overnight at room temperature. The produced precipitate was filtered and dissolved in 30 ml of 5% acetic acid in ethanol. After adding 0.5 g of 10% palladium charcoal, the reaction mixture was stirred under the hydrogen stream for 6 hours and then filtered. The filtrate was concentrated under reduced pressure. 0.25 g of the title compound was obtained (yield 61%).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-benzyl-3,8-diazabicyclo[4.3.0] non-1(6)-ene hydrobromide | 0.6 g | Br.C(C1=CC=CC=C1)N1CC=2CNCC2CC1
reactant | 1,8-diazabicyclo[5.4.0] undec-7-ene | 0.6 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6,8-difluoro-7-{3,8-diazabicyclo[4.3.0] non-1(6)-en-8-yl}-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.25 g, yield 61% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CCNCC2C1)F)=O)C(=O)O | C20H19F2N3O3
